US09227985B2
Step 2. N-Methoxy-2-phenyl-3,4-dihydroquinoline-1(2H)-carboxamide
A solution of 2-phenyl-1,2,3,4-tetrahydroquinoline (2.13 g, 10.2 mmol) and triethylamine (4.26 mL, 30.5 mmol) in tetrahydrofuran (30.0 mL) was added to a solution of triphosgene (3.20 g, 10.8 mmol) in tetrahydrofuran (38.0 mL) at 0° C. The reaction mixture was stirred at 0° C. for 1 h, treated with methoxylamine hydrochloride (1.70 g, 20.3 mmol) and triethylamine (4.26 mL, 30.5 mmol), and stirred at room temperature for an additional 19 h. The reaction mixture was diluted with water (200 mL) and extracted with ethyl acetate (2×100 mL). The combined organic extracts were washed with brine, dried over sodium sulfate, filtered, and concentrated to give a crude oil. Purification by flash column chromatography (100% hexanes to 70% ethyl acetate/hexanes, the ethyl acetate containing 5% methanol) gave the desired product (2.25 g, 78%) as a racemic mixture. LCMS calculated for C17H19N2O2 (M+H)+: m/z=283.1. found: 283.1.

reactant | 2-phenyl-1,2,3,4-tetrahydroquinoline | 10.2 mmol, 2.13 g | C1(=CC=CC=C1)C1NC2=CC=CC=C2CC1 | C15H15N
reactant | triethylamine | 30.5 mmol, 4.26 mL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 10.8 mmol, 3.20 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | methoxylamine hydrochloride | 20.3 mmol, 1.70 g | Cl.O(C)N
reactant | triethylamine | 30.5 mmol, 4.26 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 38.0 mL | O1CCCC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | N-Methoxy-2-phenyl-3,4-dihydroquinoline-1(2H)-carboxamide | 2.25 g, 78% | CONC(=O)N1C(CCC2=CC=CC=C12)C1=CC=CC=C1 | C17H18N2O2
